US05043398
A. Synthesis of 5-ethyl-5-hydroxymethyl-1,3-dioxane (EHMDO)--Monomer MI
In a one-liter three neck flask were placed 405 grams of 2-ethyl-2-hydroxymethyl-1,3-propanediol, 90 grams of paraformaldehyde, 0.9 grams of p-toluene sulfonic acid monohydrate and 150 ml of toluene. The flask was equipped with a Dean-stark trap and a condenser. The reaction mixture was stirred at a bath temperature of 120° C. to 170° C. for three hours. The toluene-water was collected, and after removing the toluene, the crude product was distilled under vacuum at 10-11 mm Hg and 115° C. to 117° C. 410 grams of 5-ethyl-5-hydroxymethyl-1,3-dioxane (EHMDO) were collected. The product was then dried by molecular sieve and had a water content of about 350 ppm. NMR spectra confirmed that EHMDO was obtained.

reactant | 2-ethyl-2-hydroxymethyl-1,3-propanediol | 405 grams | C(C)C(CO)(CO)CO | C6H14O3
reactant | paraformaldehyde | 90 grams | C=O | CH2O
reactant | p-toluene sulfonic acid monohydrate | 0.9 grams | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 5-ethyl-5-hydroxymethyl-1,3-dioxane | C(C)C1(COCOC1)CO | C7H14O3
